US08138187B2
(±)-N-[1-Butyl-4-(3-methyl-5-trifluoromethoxy-1H-indol-2-yl)cyclohex-3-enyl]-N,N-dimethylamine (320 mg, 0.81 mmol) was dissolved in ethanol (50 ml), and Pd/C (5%, 140 mg) was added under argon. Hydrogenation was carried out under 3 bar for 1.5 h. The catalyst was then filtered off with suction over Celite and the filtrate was concentrated. The solid pale brown residue (341 mg) was separated by chromatography [silica gel 60 (30 g); ethyl acetate/methanol (1:1; 500 ml); (1:2; 300 ml)]. 1-Butyl-N,N-dimethyl-4-(3-methyl-5-(trifluoromethoxy)-1H-indol-2-yl)cyclohexanamine (less polar diastereoisomer) was obtained in a yield of 28 mg (9%) and the more polar diastereoisomer in a yield of 237 mg (75%), in each case as a colourless solid.

reactant | (±)-N-[1-Butyl-4-(3-methyl-5-trifluoromethoxy-1H-indol-2-yl)cyclohex-3-enyl]-N,N-dimethylamine | 0.81 mmol, 320 mg | C(CCC)C1(CC=C(CC1)C=1NC2=CC=C(C=C2C1C)OC(F)(F)F)N(C)C | C22H29F3N2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 140 mg | [Pd] | Pd
product | 1-Butyl-N,N-dimethyl-4-(3-methyl-5-(trifluoromethoxy)-1H-indol-2-yl)cyclohexanamine | C(CCC)C1(CCC(CC1)C=1NC2=CC=C(C=C2C1C)OC(F)(F)F)N(C)C | C22H31F3N2O
